US05866566
10,11-dihydro-10-methoxyimino-5H-dibenz[b,f]azepine-5-carboxamide
To a suspension of 0.2 g (0.75 mmol) of 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide in 2 mL of acetone cooled to 0° C. was added a solution of 0.065 g (1.16 mmol) of potassium hydroxide in 1 mL of water followed by 0.164 g (1.16 mmol) of iodomethane. The resulting mixture was stirred at room temperature overnight then 10 mL of water was added. The mixture was extracted with ether and the organic layer was washed with water and brine, then dried by sodium sulphate and filtered. The solvent was removed by evaporation under reduced pressure and the residue chromatographed on silica gel with a 3% methanol-dichloromethane mixture. Chromatographically homogenous fractions were pooled, the solvents were removed under reduced pressure and the residue was crystallised from toluene to give the product as off-white crystals of m.p. 157.9°-159.4° C.

reactant | 10,11-dihydro-10-hydroxyimino-5H-dibenz[b,f]azepine-5-carboxamide | 0.75 mmol, 0.2 g | ON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C15H13N3O2
reactant | potassium hydroxide | 1.16 mmol, 0.065 g | [OH-].[K+]
reactant | iodomethane | 1.16 mmol, 0.164 g | IC | CH3I
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 10,11-dihydro-10-methoxyimino-5H-dibenz[b,f]azepine-5-carboxamide | CON=C1CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C16H15N3O2
